US04368067
Preparation of 1-(2-cyanoethyl)-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-1H-pyrrole-2-sulfonamide.
To a stirred suspension of 2.59 g (0.021 mole) of 2-amino-4,6-dimethylpyrimidine in 80 ml dry tetrahydrofuran at -70° C. under nitrogen was added dropwise via syringe 2.0 ml (0.023 mole) of chlorosulfonyl isocyanate at such a rate to maintain the temperature of the reaction mixture below -55° C. The resulting solution was stirred 0.5 hour at -70°, then treated dropwise with a solution of 2.4 ml (0.021 mol) of N-(2-cyanoethyl)pyrole in 10 ml dry THF. A catalytic amount (approximately 0.2 to 0.3 gm) of aluminum (III) chloride was added and the reaction mixture allowed to warm to ambient temperatures and stirred for an additional 18 hours. The reaction mixture was poured into 300 ml of H2O and extracted with three portions of dichloromethane. The organic solutions were washed with water, dried over MgSO4 and evaporated. Trituration with a small volume of CH2Cl2 afforded 1.2 g of the desired product as a white microcrystalline solid, m.p. 158°-159° C. The infrared spectrum of the product included absorptions at 3250 and 3110 (NH), 2240 (C≡N), 1685 (C=O), 1350 and 1160 cm-1 (SO2).

reactant | 2-amino-4,6-dimethylpyrimidine | 0.021 mole, 2.59 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | chlorosulfonyl isocyanate | 0.023 mole, 2.0 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N-(2-cyanoethyl)pyrole | 0.021 mol, 2.4 ml | C(#N)CCN1C=CC=C1 | C7H8N2
reactant | aluminum (III) chloride | approximately 0.2 to 0.3 gm | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 300 ml | O | H2O
product | 1-(2-cyanoethyl)-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-1H-pyrrole-2-sulfonamide | 1.2 g | C(#N)CCN1C(=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C | C14H16N6O3S
